US07432256B2
b) 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-6-fluoro-benzonitrile
In analogy to example 5b, 2-fluoro-6-(4-methyl-imidazol-1-yl)-benzonitrile was reacted with Eschenmoser's salt in DMF for 7 h at 90° C. Evaporation of the solvent, extractive workup and chromatography (SiO2, dichloromethane:methanol=100:0 to 97:3) furnished the title compound as a light yellow solid (yield: 46%). 1H-NMR (400 MHz, DMSO): δ=1.94 (s, 6H), 2.17 (s, 3H), 3.23 (s, 2H), 7.61-7.67 (m, 2H), 7.86 (s, 1H), 7.86-7.96 (m, 1H).

reactant | 2-fluoro-6-(4-methyl-imidazol-1-yl)-benzonitrile | FC1=C(C#N)C(=CC=C1)N1C=NC(=C1)C | C11H8FN3
reactant | Eschenmoser's salt | C[N+](=C)C.[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-6-fluoro-benzonitrile | yield: 46% | CN(C)CC1=C(N=CN1C1=C(C#N)C(=CC=C1)F)C | C14H15FN4
